US07956061B2
4,6-Dihydro-1H-thieno[3,4-c]pyrazol-3-amine
To a suspension of 1.00 g (7.86 mmol) of 4-cyanotetrahydrothiophenone in 6 mL of ethanol was added 0.275 mL (286 mg, 4.76 mmol) of glacial acetic acid, followed by 0.475 mL (489 mg, 9.77 mmol) of hydrazine hydrate. The resulting clear solution was stirred overnight under nitrogen with heating in an oil bath at 80° C. The cooled reaction mixture was then partitioned between ethyl acetate and saturated sodium bicarbonate aqueous solution. The aqueous phase was re-extracted with an additional portion of ethyl acetate. The combined organic fractions were washed with saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate, filtered, and concentrated to a syrup. Trituration of this oil with dichloromethane containing a small amount (less than 3%) of methanol resulted in crystallization. The suspension was heated to gentle reflux for a few minutes and then cooled. The solid was collected on a filter and washed with a small volume of dichloromethane to yield the title compound as almost colorless crystals. LC-MS 142 (M+1).

reactant | 4-cyanotetrahydrothiophenone | 7.86 mmol, 1.00 g | C(#N)C1CCS(C1)=O | C5H7NOS
reactant | acetic acid | 4.76 mmol, 0.275 mL, 286 mg | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 9.77 mmol, 0.475 mL, 489 mg | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4,6-Dihydro-1H-thieno[3,4-c]pyrazol-3-amine | N1N=C(C2=C1CSC2)N | C5H7N3S
